US04645771
Triethylamine (1.2 g.) was added with stirring to a solution of 1-(4-hydroxybenzyl)-1,2,3,6-tetrahydropyridine (1.9 g.) in methylene chloride (30 ml.) at 0° C. Ethyl chloroformate (1.2 g.) was then added dropwise and the mixture stirred at 25° C. for 16 hours and then evaporated. Water (30 ml.) was added to the residue and the mixture was extracted with ether (2×30 ml.). The combined extracts were dried (MgSO4) and evaporated. The residue was dissolved in acetone (20 ml.) and acidified with ethereal hydrogen chloride to give 1-[4-(ethoxycarbonyloxy)benzyl]-1,2,3,6-tetrahydropyridine hydrochloride (1.5 g.) m.p. 168°-172° C. (after recrystallisation from ethanol-ethyl acetate).

reactant | Triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | 1-(4-hydroxybenzyl)-1,2,3,6-tetrahydropyridine | 1.9 g | OC1=CC=C(CN2CCC=CC2)C=C1 | C12H15NO
reactant | Ethyl chloroformate | 1.2 g | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(ethoxycarbonyloxy)benzyl]-1,2,3,6-tetrahydropyridine hydrochloride | 1.5 g | Cl.C(C)OC(=O)OC1=CC=C(CN2CCC=CC2)C=C1 | InChI=1S/C15H19NO3.ClH/c1-2-18-15(17)19-14-8-6-13(7-9-14)12-16-10-4-3-5-11-16;/h3-4,6-9H,2,5,10-12H2,1H3;1H
